US06297239B1
Step B: Preparation of Phenyl 4-Cyano-2-(biphenyl-4-yl-2-ethoxy)benzoate
To a solution of a phenol, as described in Step A, in 5 mL of dimethyl formamide (DMF) was added biphenyl-4-ylethyl iodide (170 mg, 0.55 mmol) and Cs2CO3 (246 mg, 0.75 mmol). The suspension was stirred for 16 hr. After this time, the reaction mixture was diluted with EtOAc, extracted with water (3×), washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (SiO2; hexane:EtOAc 9:1 then 4:1) to provide the title compound.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | biphenyl-4-ylethyl iodide | 0.55 mmol, 170 mg | C1(=CC=C(C=C1)CCI)C1=CC=CC=C1 | C14H13I
reactant | Cs2CO3 | 0.75 mmol, 246 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Phenyl 4-Cyano-2-(biphenyl-4-yl-2-ethoxy)benzoate | C(#N)C1=CC(=C(C(=O)OC2=CC=CC=C2)C=C1)OC(C)C1=CC=C(C=C1)C1=CC=CC=C1 | C28H21NO3
